US08609656B2
Preparation of 4-(2-pyridin-4-yl-ethyl)-3-(trifluoromethyl)aniline
In 20 mL of ethanol, 1.3 g (4.45 mmol) of 4-(4-nitro-2-(trifluoromethyl)phenylethynyl)pyridine was dissolved and stirred on 100 mg of 10% palladium carbon overnight at room temperature in a hydrogen atmosphere. The catalyst was removed by filtration and the filtrate was concentrated and the residue was purified by a silica gel column (n-hexane:ethyl acetate=1:2) to obtain 1.0 g (85%) of a target product as a pale yellow oil.

reactant | 4-(4-nitro-2-(trifluoromethyl)phenylethynyl)pyridine | 4.45 mmol, 1.3 g | [N+](=O)([O-])C1=CC(=C(C=C1)C#CC1=CC=NC=C1)C(F)(F)F | C14H7F3N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium carbon | 100 mg | [C].[Pd]
product | 4-(2-pyridin-4-yl-ethyl)-3-(trifluoromethyl)aniline | 1.0 g, 85% | N1=CC=C(C=C1)CCC1=C(C=C(N)C=C1)C(F)(F)F | C14H13F3N2
